US07977343B2
12.5 Reaction of 1.5 g of 1-tert-butyloxycarbonyl-(2R,4S)-2-(methylsulfonyloxymethyl)-4-(tert-butyldimethylsilyloxy)pyrrolidine with 560 μl of 2-chlorophenol and 1.19 g of caesium carbonate in 15 ml of DMF under standard conditions gives 751 mg of (2R,4S)-1-tert-butyloxycarbonyl-2-(2-chlorophenoxymethyl)-4-(tert-butyldimethylsilyloxy)pyrrolidine. 223 mg of the silyl-eliminated product (2R,4S)-1-tert-butyloxycarbonyl-2-(2-chlorophenoxymethyl)-4-hydroxypyrrolidine are formed as by-product.

reactant | 1-tert-butyloxycarbonyl-(2R,4S)-2-(methylsulfonyloxymethyl)-4-(tert-butyldimethylsilyloxy)pyrrolidine | 1.5 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)O[Si](C)(C)C(C)(C)C)COS(=O)(=O)C | C17H35NO6SSi
reactant | 2-chlorophenol | 560 μl | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | caesium carbonate | 1.19 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (2R,4S)-1-tert-butyloxycarbonyl-2-(2-chlorophenoxymethyl)-4-(tert-butyldimethylsilyloxy)pyrrolidine | 751 mg | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)O[Si](C)(C)C(C)(C)C)COC1=C(C=CC=C1)Cl | C22H36ClNO4Si
